US07226930B2
2-(2,6-Difluorobenzyl)-1-hydroxy-1H-pyrazole (81.2 mg, 0.386 mmol, 1.0 eq) and 5 ml of anhydrous CHCl3 were combined in a flame-dried 25 mL round-bottom flask under argon and cooled in an ice/water bath. A solution of POBr3 (398.1 mg, 1.39 mmol, 3.60 eq) in 3 mL of CHCl3 was added using a syringe in aliquots over an hour period with stirring. The reaction solution was warmed to room temperature and stirred for 16 hours. The CHCl3 was removed in vacuo and the resulting orange mixture was neutralized with saturated aqueous NaHCO3 and extracted with 3×30 mL of diethyl ether. The combined ether fractions were washed with brine, dried over Na2SO4 and concentrated in vacuo to yield 101.5 mg (96.7% yield) of 5-bromo-1-(2,6-difluorobenzyl)-1H-pyrazole as a hygroscopic orange-tan colored solid. 1H NMR (CDCl3 300 MHz) δ 7.51 (d, 1H), 7.34 (m, 1H), 6.94 (t, 2H), 6.29 (d, 1H), 5.50 (s, 2H). LC/MS (ES) M+1=273.1, 275.1

reactant | 2-(2,6-Difluorobenzyl)-1-hydroxy-1H-pyrazole | 0.386 mmol, 81.2 mg, 1.0 eq | FC1=C(CN2N(C=CC2)O)C(=CC=C1)F | C10H10F2N2O
reactant | POBr3 | 1.39 mmol, 398.1 mg, 3.60 eq | P(=O)(Br)(Br)Br | Br3OP
solvent | CHCl3 | 3 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-bromo-1-(2,6-difluorobenzyl)-1H-pyrazole | 101.5 mg, 96.7% yield | BrC1=CC=NN1CC1=C(C=CC=C1F)F | C10H7BrF2N2
